US09387200B2
g) 4-Hydroxy-3,7-dimethyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid butyl ester
To a solution of 7-bromo-4-hydroxy-3-methyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid butyl ester (0.338 mmol) in DMF (2.05 mL) was added tetramethyltin (0.67 mmol) and PdCl2(PPh3)2 (0.0338 mmol). The reaction mixture was stirred at 120° C. for 1 h. After cooling to r.t., the mixture was partitioned between water (100 mL) and EtOAc (100 mL). The organic layer was washed with brine and water, then dried over MgSO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel. Eluting with 0-20% EtOAc/CH2Cl2, gave the title compound (38.1 mg) as a white solid: MS (m/z) 281.2 (M+1).

reactant | 7-bromo-4-hydroxy-3-methyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid butyl ester | 0.338 mmol | C(CCC)OC(=O)C=1C(=C2C(=C(N1)Br)SN=C2C)O | C12H13BrN2O3S
reactant | tetramethyltin | 0.67 mmol | C[Sn](C)(C)C
solvent | DMF | 2.05 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.0338 mmol | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Hydroxy-3,7-dimethyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid butyl ester | 38.1 mg | C(CCC)OC(=O)C=1C(=C2C(=C(N1)C)SN=C2C)O | C13H16N2O3S
